US08334287B2
[4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-2-oxo-2H-pyridin-1-yl]-acetic acid ethyl ester
The title compound, brown solid, MS: m/e=376.3 (M+H+), was prepared in accordance with the general method of example 3 from 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one and ethyl bromoacetate.

reactant | 4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-1H-pyridin-2-one | CC=1N(C=C(N1)C#CC=1C=C(C=CC1)C)C1=CC(NC=C1)=O | C18H15N3O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | [4-(2-Methyl-4-m-tolylethynyl-imidazol-1-yl)-2-oxo-2H-pyridin-1-yl]-acetic acid ethyl ester | C(C)OC(CN1C(C=C(C=C1)N1C(=NC(=C1)C#CC=1C=C(C=CC1)C)C)=O)=O | C22H21N3O3
